US05258356
2-Amino-6-bromo-5,7-dimethyl-1,8-naphthyridine
173 g (1 mol) of 2-amino-5,7-dimethyl-1,8-naphthyridine is suspended in 500 ml of glacial acetic acid. At 60° C. and with stirring, 160 g (1 mol) of bromine is dripped in, the solid going into solution. After all has been added, the mixture is stirred overnight at room temperature (20° C.) and then poured into 1 liter of water. Excess bromine is reduced by adding a small amount of NaHSO3. The pH is brought to 4 with concentrated NH3 solution. The mixture is stirred for about 30 minutes and the precipitate is filtered off and dried under reduced pressure to give 132 g of a pale brown solid.

reactant | 2-amino-5,7-dimethyl-1,8-naphthyridine | 1 mol, 173 g | NC1=NC2=NC(=CC(=C2C=C1)C)C | C10H11N3
reactant | bromine | 1 mol, 160 g | BrBr | Br2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | NH3 | N | H3N
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 liter | O | H2O
product | 2-Amino-6-bromo-5,7-dimethyl-1,8-naphthyridine | 132 g | NC1=NC2=NC(=C(C(=C2C=C1)C)Br)C | C10H10BrN3
